US06699995B1
4-(3,4-Dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]oxazole
To a mixture of 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol (352 mg), 2-methylphenol (216 mg), tributylphosphine (405 mg) and tetrahydrofuran (10 mL) was added 1,1′-(azodicarbonyl)dipiperidine (450 mg) at room temperature, and the mixture was stirred for 1 h. The reaction mixture was concentrated and the residue was subjected to silica gel column chromatography. The title compound was obtained as crystals from an eluate from ethyl acetate-hexane (2:3, v/v). Recrystallization from acetone-isopropyl ether gave colorless prism crystals (271 mg, 61%). melting point: 116-117° C.

reactant | 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol | 352 mg | ClC=1C=C(C=CC1Cl)C=1N=C(OC1CCCO)N1C(=NC=C1)C | C16H15Cl2N3O2
reactant | 2-methylphenol | 216 mg | CC1=C(C=CC=C1)O | C7H8O
reactant | tributylphosphine | 405 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 450 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(3,4-Dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]oxazole | ClC=1C=C(C=CC1Cl)C=1N=C(OC1CCCOC1=C(C=CC=C1)C)N1C(=NC=C1)C | C23H21Cl2N3O2
